US06921763B2
A solution of 3-iodo-1-[3-(4-methylpiperazino)propyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.188 g, 0.469 mmol) in ethylene glycol dimethyl ether (16 mL) was treated with N2-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-2-indolecarboxamide (0.209 g, 0.516 mmol), tetrakis(triphenylphosphine)palladium (0.033 g, 0.028 mmol), and a solution of sodium carbonate (0.119 g, 1.13 mmol) in water (8 mL). The reaction mixture was stirred for 4.5 h at 80° C. The organic solvent was removed under reduced pressure and ethyl acetate (200 mL) was added. The layers were partitioned and the aqueous layer was extracted with ethyl acetate (400 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated under reduced pressure. The crude material was purified by flash chromatography on silica gel using a step-wise gradient of 20% methanol in dichloromethane to 50% methanol in dichloromethane. The column afforded 0.078 g (30%) of pure N2-(4-{4-amino-1-[3-(4-methylpiperazino)propyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide. 1H NMR (DMSO-d6, 400 MHz) δ 9.442 (s, 1H), 8.258 (s, 1H), 8.122-8.1076 (d, 1H, J=8.16 Hz), 7.719-7.6991 (d, 1H, J=7.96 Hz), 7.6005-7.5793 (d, 1H, J=8.48 Hz), 7.349-7.294 (m, 4H), 7.172-7.135 (t, 1H), 4.405-4.371 (m, 2H), 4.04 (s, 3H), 3.958 (s, 3H), 3.291 (m, 2H), 2.5 (m, 3H), 2.45-2.337 (m, 5H), 2.30-2.10 (m, 3H), 2.022-2.005 (m, 2H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium acetate in water to 95% acetonitrile over 6 min, 0.8 to 0.5 mL/min) Rt 2.05 min (100%), MH+ 554.3.

reactant | 3-iodo-1-[3-(4-methylpiperazino)propyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.469 mmol, 0.188 g | IC1=NN(C2=NC=NC(=C21)N)CCCN2CCN(CC2)C | C13H20IN7
reactant | N2-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-2-indolecarboxamide | 0.516 mmol, 0.209 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)C=1N(C2=CC=CC=C2C1)C | C23H27BN2O4
reactant | sodium carbonate | 1.13 mmol, 0.119 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 16 mL | COCCOC | C4H10O2
solvent | water | 8 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.028 mmol, 0.033 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N2-(4-{4-amino-1-[3-(4-methylpiperazino)propyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)-1-methyl-1H-2-indolecarboxamide | 0.078 g, 30% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)CCCN2CCN(CC2)C | C30H35N9O2
